US08669234B2
{1-[2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (98.7 mg, 0.181 mmol) was combined with (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (71.2 mg, 0.181 mmol) and Pd(PPh3)4 (21.5 mg, 0.018 mmol) under an argon atmosphere. DMF (degassed with Argon) was added followed by triethylamine (181 mg, 1.8 mmol) and copper(I) iodide (3.5 mg, 0.018 mmol). The mixture was heated at 80° C. After 20 minutes, volatiles were removed in vacuo and the crude material was semi-purified via chromatography on silica gel (eluent EtOAc w MeOH 10%/hexanes) and further purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product [1-(2-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-4-(2,2,2-trifluoro-ethyl)-piperazin-2-yl]-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (12.4 mg): LCMS-ESI+: calc'd for C44H52F3N9O6: 859.9 (M+). Found: 860.5 (M+H+); 1H-NMR: 300 MHz, (MeOH-d4) δ: 7.91-7.68 (m, 10H), 6.06 (m, 2H), 5.24 (m, 1H), 4.43 (m, 1H), 4.23 (d, J=7.8 Hz, 1H), 4.11 (m, 1H), 3.85 (m, 1H), 3.68 (s, 3H), 3.66 (s, 3H), 3.49-3.45 (m, 2H), 3.15-3.02 (m, 3H), 2.77 (m, 1H), 2.58 (m, 1H), 2.29-2.01 (m, 5H), 1.07-0.83 (m, 12H).

reactant | {1-[2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2,2,2-trifluoro-ethyl)-piperazine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.181 mmol, 98.7 mg | COC(NC(C(C)C)C(=O)N1C(CN(CC1)CC(F)(F)F)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C22H27BrF3N5O3
reactant | (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.181 mmol, 71.2 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H26N4O3
reactant | triethylamine | 1.8 mmol, 181 mg | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.018 mmol, 21.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.018 mmol, 3.5 mg | [Cu]I
solvent | DMF | CN(C)C=O | C3H7NO
product | [1-(2-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-4-(2,2,2-trifluoro-ethyl)-piperazin-2-yl]-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 12.4 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1N=C(NC1)C1N(CCN(C1)CC(F)(F)F)C(C(C(C)C)NC(=O)OC)=O)=O | C44H52F3N9O6
